US07323567B2
f) 6-(Carboxymethyl)-2-(2-methoxyphenyl)-1H-benzimidazole-7-carboxylic acid
A solution of diethyl [7-(methoxycarbonyl)-2-(2-methoxyphenyl)-1H-benzimidazol-6-yl]malonate (4.96 g, 11.3 mmol) and aqueous 2 N NaOH solution (50.0 mL, 100 mmol) in THF (112 mL) and MeOH (45 mL) was stirred at room temperature for 17 h. The mixture was concentrated under reduced pressure. The residual aqueous solution was cooled to 0° C. and aqueous 2 N HCl solution (50 mL) was slowly added (pH 4 obtained). The resulting suspension was heated at 70° C. for 15 h. The cooled suspension was filtered to give the title compound (3.72 g, 100% yield) as a white solid.

reactant | diethyl [7-(methoxycarbonyl)-2-(2-methoxyphenyl)-1H-benzimidazol-6-yl]malonate | 11.3 mmol, 4.96 g | COC(=O)C1=C(C=CC2=C1NC(=N2)C2=C(C=CC=C2)OC)C(C(=O)OCC)C(=O)OCC | C23H24N2O7
reactant | NaOH | 100 mmol, 2 N, 50.0 mL | [OH-].[Na+]
solvent | THF | 112 mL | C1CCOC1 | C4H8O
solvent | MeOH | 45 mL | CO | CH4O
product | 6-(Carboxymethyl)-2-(2-methoxyphenyl)-1H-benzimidazole-7-carboxylic acid | 3.72 g, 100% yield | C(=O)(O)CC=1C=CC2=C(NC(=N2)C2=C(C=CC=C2)OC)C1C(=O)O | C17H14N2O5
